US05284828
To a solution of benzyl (2S)-2-chlorocarbonyloxy-4-methylvalerate (0.56 g) in tetrahydrofuran (11 ml) was added cyclohexylamine (0.40 g) at room temperature. After being stirred for 10 minutes, the solvent was removed by evaporation under reduced pressure, and the residue was dissolved in ethyl acetate (30 ml). The solution was washed with 1N HCl, water and brine successively. The organic layer was dried over magnesium sulfate and concentrated in vacuo. The residual solid was triturated with hexane to give benzyl (2S)-2-cyclohexylcarbamoyloxy-4-methylvalerate (0.45 g).

reactant | benzyl (2S)-2-chlorocarbonyloxy-4-methylvalerate | 0.56 g | ClC(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C14H17ClO4
reactant | cyclohexylamine | 0.40 g | C1(CCCCC1)N | C6H13N
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | benzyl (2S)-2-cyclohexylcarbamoyloxy-4-methylvalerate | 0.45 g | C1(CCCCC1)NC(=O)O[C@H](C(=O)OCC1=CC=CC=C1)CC(C)C | C20H29NO4
